US04451681
1.0 gram of 2,4,6-trinitrotoluene was dissolved in 22 ml of glacial acetic acid. With vigorous stirring, 0.82 g of iron powder (400 mesh) was added in small portions over two hours. The red reaction suspension was diluted to 50 ml with water giving a bright yellow precipitate. Filtration gave 0.38 grams of 2-amino-4,6-dinitrotoluene of sufficient spectral and chromatographic purity for use in the subsequent synthesis without recrystallization.

reactant | 2,4,6-trinitrotoluene | 1.0 gram | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C | C7H5N3O6
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | iron | 0.82 g | [Fe] | Fe
product | 2-amino-4,6-dinitrotoluene | 0.38 grams | NC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C | C7H7N3O4
